US06274120B1
i) 1-Chloroethyl octadecyl carbonate
1-Chloroethyl chloroformate (7.15 g, 50 mmol) and 1-octadecanol (13.53 g, 50 mmol) were suspended in chloroform (100 ml) at 0° C. Pyridine (3.96 g, 50 mmol) was added dropwise during 20 minutes, maintaining the temperature below 10° C. After stirring at room temperature for 24 hours the reaction mixture was washed four times with 1N hydrochloric acid, once with a saturated sodium bicarbonate solution and finally twice with water. The organic solution was dried with magnesium sulphate and the solvent was removed at reduced pressure. Yield: 19 g.

reactant | 1-Chloroethyl chloroformate | 50 mmol, 7.15 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-octadecanol | 50 mmol, 13.53 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | Pyridine | 50 mmol, 3.96 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Chloroethyl octadecyl carbonate | C(OC(C)Cl)(OCCCCCCCCCCCCCCCCCC)=O | C21H41ClO3
